US04126611
A solution of 73.5 g (0.75 mole) of 1,2-cyclopentanedione in 400 ml of ether was added to 1.5 moles of phenyl lithium in 1.2 liter of ether, and the mixture was stirred under N2 for one half hour. After careful addition of water, the ethereal layer was separated, dried over magnesium sulfate and the solvent evaporated. The residue was distilled under reduced pressure and gave 77.2 g of 2-hydroxy-2-phenylcyclopentanone, b.p. 122°-126° C. (1.5 mm), nD25 1.5551. The oxime was prepared by known procedures, m.p. 110°-112° C., and was reduced by hydrogenation over Raney nickel in 20% alcoholic ammonia. Removal of catalyst, evaporation of solvent and addition of HCl gave 2-hydroxy-2-phenylcyclopentylamine hydrochloride, m.p. 198°-199° C.

reactant | 1,2-cyclopentanedione | 0.75 mole, 73.5 g | C1(C(CCC1)=O)=O | C5H6O2
reactant | phenyl lithium | 1.5 moles | C1(=CC=CC=C1)[Li]
reactant | water | O | H2O
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | ether | 1.2 liter | CCOCC | C4H10O
product | 2-hydroxy-2-phenylcyclopentanone | 77.2 g | OC1(C(CCC1)=O)C1=CC=CC=C1 | C11H12O2
